US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}-2-furansulfonamide
Following a procedure analogous to the procedure described in Example 52, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}-2-furansulfonamide (72 mg, 0.151 mmol) and ammonium hydroxide (5 mL), the title compound was obtained as a white solid (62 mg, 89%). 1H-NMR (DMSO-d6): δ ppm 10.57 (br s, 1H), 8.26 (d, J=5.6 Hz, 1H), 7.97 (m, 1H), 7.44-7.48 (m, 1H), 7.23-7.32 (m, 2H), 7.08 (m, 1H), 6.63 (m, 1H) 6.57 (d, J=5.2 Hz, 1H), 1.41 (s, 9H); MS: 458 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}-2-furansulfonamide | 0.151 mmol, 72 mg | ClC1=NC=CC(=N1)C1=C(N=C(O1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1OC=CC1)F | C21H18ClFN4O4S
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-oxazol-4-yl]-2-fluorophenyl}-2-furansulfonamide | NC1=NC=CC(=N1)C1=C(N=C(O1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1OC=CC1)F | C21H20FN5O4S
